US07847101B2
4-(6-Dimethylaminomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine (574-38A):
The title compound (24 mg) was prepared starting from 40 mg of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine and excess dimethylamine. MS (m/z, ES+): 288.1 (M+1, 20%), 243.1 (M-(CH3)2N, 100%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 40 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | dimethylamine | CNC | C2H7N
product | 4-(6-Dimethylaminomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 24 mg | CN(C)CC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C14H17N5S
